US08629160B2
A solution of (S)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (diastereomer 2 of C19) (230 mg, 0.586 mmol) and 2-chloro-1-phenylethanone (91 mg, 0.586 mmol) in dry CH3CN (2 ml) was stirred at r.t. for 24 hours. Then the solvent was evaporated and the residue was purified by preparative HPLC (Eluent: CH3CN/H2O) to obtain (R)-3-((S)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride (102 mg, 31.8% yield).

reactant | (S)—((R)-quinuclidin-3-yl) 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.586 mmol, 230 mg | S1C2=C(C(=C1)[C@@H](C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
reactant | 2-chloro-1-phenylethanone | 0.586 mmol, 91 mg | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
solvent | CH3CN | 2 ml | CC#N | C2H3N
product | (R)-3-((S)-2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-phenylethyl)-1-azoniabicyclo[2.2.2]octane chloride | 102 mg, 31.8% yield | [Cl-].S1C2=C(C(=C1)[C@@H](C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C3=CC=CC=C3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C31H31N2O3S.ClH/c34-27(22-9-3-1-4-10-22)19-33-17-15-23(16-18-33)28(20-33)36-31(35)30(32-24-11-5-2-6-12-24)26-21-37-29-14-8-7-13-25(26)29;/h1-14,21,23,28,30,32H,15-20H2;1H/q+1;/p-1/t23?,28-,30-,33?;/m0./s1
